US07560558B2
Compound 313: 1-[2-(7-Benzyloxy-6-methoxy-quinolin-4-yloxy)-4,5-dimethyl-phenyl]-ethanone
2-Hydroxy-4,5-dimethylacetophenone (3.63 g), 7-benzyloxy-4-chloro-6-methoxyquinoline (1.50 g), and 4-dimethylaminopyridine (2.71 g) were suspended in o-dichlorobenzene (15 ml), and the suspension was stirred at 130° C. overnight. The reaction solution was cooled to room temperature, and the solvent was then removed by distillation under the reduced pressure. Water was added to the residue, and the mixture was extracted with chloroform, and the chloroform layer was then washed with water and saturated brine and was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using acetone-hexane to give the title compound (1.10 g, yield 37%).

reactant | 2-Hydroxy-4,5-dimethylacetophenone | 3.63 g | CC1=C(C=C(C(=C1)C(=O)C)O)C | C10H12O2
reactant | 7-benzyloxy-4-chloro-6-methoxyquinoline | 1.50 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)Cl)OC | C17H14ClNO2
catalyst | 4-dimethylaminopyridine | 2.71 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 15 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1-[2-(7-Benzyloxy-6-methoxy-quinolin-4-yloxy)-4,5-dimethyl-phenyl]-ethanone | 1.10 g, yield 37% | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=C(C=C(C(=C1)C)C)C(C)=O)OC | C27H25NO4
